US05157040
Ethyl 3-cyclopropyl-3-oxopropionate
To a stirred solution of 23.8 g ethyl hydrogen malonate (180 mmoles) in 350 mL of dry THF, and cooled to -75° C. under nitrogen atmosphere, was added dropwise 145 mL of 2.5M n-butyllithium in hexane (363 mmoles), keeping the temperature below -55° C. The resultant suspension was warmed to ca. 0° C. and held at 0° to 10° C. for 20 minutes; it was then recooled to ←70° C. and cyclopropanecarbonyl chloride (10.0 mL, 11.5 g, 109 mmoles) was added dropwise. with stirring, maintaining the temperature below -60° C. It was then warmed to room temperature, diluted with 300 mL of ether, and carefully treated, with stirring, with 25 mL of concentrated hydrochloric acid in 200 mL of water. The phases were separated, the organic phase was washed once with water, and the aqueous phases were combined. The aqueous phases were extracted three times with ether, the ether phases combined, washed once with water, and combined with the original organic phase. Finally, the entire organic phase was washed once with saturated aqueous NaHCO3, dried over MgSO4, and the ether evaporated to give 14.9 g crude product. Distillation under reduced pressure gave 9.8 g final product, bp 88°-92° C./5 mm Hg. (Lit. 90°-95° C./4 mm Hg).

reactant | ethyl hydrogen malonate | 180 mmoles, 23.8 g | C(CC(=O)O)(=O)OCC | C5H8O4
reactant | n-butyllithium | 2.5M, 145 mL | C(CCC)[Li]
reactant | hexane | 363 mmoles | CCCCCC | C6H14
reactant | cyclopropanecarbonyl chloride | 109 mmoles, 10.0 mL, 11.5 g | C1(CC1)C(=O)Cl | C4H5ClO
reactant | hydrochloric acid | 25 mL | Cl | ClH
solvent | THF | 350 mL | C1CCOC1 | C4H8O
solvent | ether | 300 mL | CCOCC | C4H10O
solvent | water | 200 mL | O | H2O
product | Ethyl 3-cyclopropyl-3-oxopropionate | 9.8 g | C1(CC1)C(CC(=O)OCC)=O | C8H12O3
